US06252084B1
A 2M solution of Al(CH3)3/toluene (15 mL, 0.03 mol) was added to 1.61 g (0.03 mol) of ammonium chloride while slowly keeping the temperature at 5-7° C. with an ice-water bath. The bath was removed, the mixture stirred for 0.5 hour and 1.01 g (3.05 mmol) of 1-hexyl-5-methoxy-2-methyl-1H-indole-3-acetic acid ethyl ester was added. After stirring for 16 hours, 10 mL of water was added cautiously and the mixture added to 1N HCl and a large volume of ethyl acetate. The organic layer was separated, washed with water, sodium bicarbonate solution and dried (Na2SO4). After removing the solvent at reduced pressure the residue was crystallized from MeOH/water to give 0.37 g (40% yield) of 1-hexyl-5-methoxy-2-methyl-1H-indole-3-acetamide, mp, 120-121° C.

reactant | Al(CH3)3 toluene | 0.03 mol, 15 mL | [Al](C)(C)C.C1(=CC=CC=C1)C
reactant | ammonium chloride | 0.03 mol, 1.61 g | [Cl-].[NH4+]
reactant | 1-hexyl-5-methoxy-2-methyl-1H-indole-3-acetic acid ethyl ester | 3.05 mmol, 1.01 g | C(C)OC(CC1=C(N(C2=CC=C(C=C12)OC)CCCCCC)C)=O | C20H29NO3
reactant | HCl | 1N | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 10 mL | O | H2O
product | 1-hexyl-5-methoxy-2-methyl-1H-indole-3-acetamide | 0.37 g, 40% yield | C(CCCCC)N1C(=C(C2=CC(=CC=C12)OC)CC(=O)N)C | C18H26N2O2
